US06365179B1
Ethanol was removed from the liposome suspension by diafiltration. A histidine/sodium chloride solution was prepared by dissolving histidine (10 mM) and sodium chloride (150 mM) in sterile water. The pH of the solution was adjusted to approximately 7. The solution was filtered through a 0.22 μm Durapore filter. The liposome suspension was diluted in approximately a 1:1 (v/v) ratio with the histidine/sodium chloride solution and diafiltered through a polysulfone hollow-fiber ultrafilter. Eight volume exchanges were performed against the histidine/sodium chloride solution to remove the ethanol. The process fluid temperature was maintained at about 20-30° C. Total diafiltration time was approximately 4.5 hours.

reactant | histidine | 10 mM | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
reactant | sodium chloride | 150 mM | [Cl-].[Na+]
solvent | water | O | H2O
product | histidine sodium chloride | N[C@@H](CC1=CNC=N1)C(=O)O.[Cl-].[Na+] | InChI=1S/C6H9N3O2.ClH.Na/c7-5(6(10)11)1-4-2-8-3-9-4;;/h2-3,5H,1,7H2,(H,8,9)(H,10,11);1H;/q;;+1/p-1/t5-;;/m0../s1
